US04382939
3-[2-(Ethylpropylamino)propyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described in Example 73 from 3-[2-(ethylamino)propyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride (6.7 g, 0.016 moles), sodium acetate (2.6 g, 0.032 moles), sodium borohydride (3.3 g, 0.087 moles), and propionic acid (29.8 g, 0.40 moles) instead of acetic acid. Several recrystallizations from diisopropyl ether yielded the product as the free base (2.4 g), mp 93°-96° C.

reactant | 3-[2-(ethylamino)propyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride | 0.016 moles, 6.7 g | Cl.Cl.C(C)NC(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C(=C1)OC)OC)C
reactant | sodium acetate | 0.032 moles, 2.6 g | C(C)(=O)[O-].[Na+]
reactant | sodium borohydride | 0.087 moles, 3.3 g | [BH4-].[Na+]
reactant | propionic acid | 0.40 moles, 29.8 g | C(CC)(=O)O | C3H6O2
product | 3-[2-(Ethylpropylamino)propyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 2.4 g | C(C)N(C(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C(=C1)OC)OC)C)CCC | C22H32N2O4
